US07163940B2
To a solution of 3-bromo-N-cyclopentyl-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-amine (106 mg, 0.28 mmol) in N,N-dimethylformamide (5 mL) was added 4-pyridinylboronic acid (70 mg, 0.56 mmol), sodium carbonate (0.28 mL, 2 M aqueous, 0.56 mmol) and dichlorobis(triphenylphosphine)palladium(II) (10 mg, 0.01 mmol). The resultant solution was heated to 100° C. for 18 hours. The reaction mixture was cooled to room temperature and ether was added. The organic layer was washed with water and brine. The aqueous layer was extracted with ether and the combined organics dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (2:1 hexanes:ether) provided N-cyclopentyl-2-(4-fluorophenyl)-3-(4-pyridinyl)pyrazolo[1,5-α]pyridin-7-amine (48 mg, 46%) as a yellow solid. 1H NMR (CDCl3): δ 8.50 (d, 2H), 7.53 (m, 2H), 7.22–7.18 (m, 3H), 7.06–6.97 (m, 3H), 6.00 (d, 1H), 5.95 (d, 1H), 3.99 (m, 1H), 2.16–2.08 (m, 2H), 1.83–1.66 (m, 6H); 13C NMR (CDCl3) δ 162.99 (d, JCF=246.6 Hz), 150.07, 149.98, 142.77, 141.98, 140.13, 131.02 (d, JCF=8.0 Hz), 129.04, 127.64, 123.98, 115.56 (d, JCF=21.2 Hz), 106.51, 102.22, 89.25, 53.88, 33.36, 24.05; 19F NMR (CDCl3) δ −113.49; MS m/z 373 (M+1).

reactant | 3-bromo-N-cyclopentyl-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-amine | 0.28 mmol, 106 mg | BrC=1C(=NN2C1C=CC=C2NC2CCCC2)C2=CC=C(C=C2)F | C18H17BrFN3
reactant | 4-pyridinylboronic acid | 0.56 mmol, 70 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 0.56 mmol, 2 M, 0.28 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.01 mmol, 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-cyclopentyl-2-(4-fluorophenyl)-3-(4-pyridinyl)pyrazolo[1,5-α]pyridin-7-amine | 48 mg, 46% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C23H21FN4
